2125-12-02 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2125-12-1**] 08:40 PM
 NASAL SWAB - At [**2125-12-1**] 08:40 PM
   - no issues overnight
   - anticipate c/o this morning
   - abx changed to cover [**Year (4 digits) 7012**] from hx of prior PNA
   - contact precautions for MRSA, VRE, [**Name (NI) 7012**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2125-12-1**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-2**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 87 (81 - 89) bpm
   BP: 95/57(65) {72/36(43) - 103/68(73)} mmHg
   RR: 24 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                    848 mL
                                                                    362 mL
   PO:
                                                                    440 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    408 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                     40 mL
                                                                     80 mL
   Urine:
                                                                     40 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    808 mL
                                                                    282 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   131 K/uL
   12.1 g/dL
   91 mg/dL
   5.3 mg/dL
   29 mEq/L
   4.5 mEq/L
   52 mg/dL
   92 mEq/L
   132 mEq/L
   36.6 %
   12.2 K/uL
        [image002.jpg]
                            [**2125-12-2**]  02:15 AM
   WBC
   12.2
   Hct
   36.6
   Plt
   131
   Cr
   5.3
   Glucose
   91
   Other labs: PT / PTT / INR:16.5/27.3/1.5, Differential-Neuts:85.1 %,
   Lymph:7.5 %, Mono:6.0 %, Eos:0.9 %, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
   This is a 81 M with pmh of ESRD on HD, AFib, CHF, C diff colitis, h/o
   klebsiella urosepsis, recent MRSA line infection presented with
   generalized weakness and low blood pressure.
   .
   # Fatigue/hypotension/leukocytosis: His presentation is concerning for
   infection.  Urine is suspicous for UTI.  BCx from HD this week shows
   NGTD.  Afebrile.  Blood pressure responded to NS in ED.  More prominent
   gall bladder on CT but benign abdominal exam.  HD line site not
   suspicous for infection.
   - Vanc started on Thursday.  Will pancover him with Vanc (HD dosed) and
   meropenem
   - follow up BCx
   - send UCx
   - check C diff
   - careful IVF for MAP greater than 60
   .
   # ESRD/HD:
   - appreciate renal recs
 will continue to follow, most likely dialysis
   for Monday
   - will notify Dr.[**Last Name (STitle) 7009**] re: plan for fistula next week
 may have to
   defer
   .
   # Hyponatremia/Hypochloremia
 likely from insensible losses, combined
   with poor PO
   - continue NS boluses prn for hypotension
   - check lytes [**Hospital1 **]
   .
   # Sleep apnea:
   - continue night oxygen, increase NC at night
   .
   # h/o CAD/PVD/CVA:
   - continue ASA 325
   .
   # h/o Afib:  Currently in afib but rate controlled.
   - betablokade recently discontinued in the setting of hypotension
   .
   # h/o ? dCHF:
   - currently does not appear volume overloaded
   .
   # Anemia h/o GIB:
   - HCT greater than baseline
   - guaiac stool prn
   .
   # Prophylaxis: sc heparin tid; PPI
   .
   # FEN: renal diet
   .
   # Access: PIV, HD line
   .
   # Code: Full Code, confirmed with patient
   .
   # Contact: Wife, [**Name (NI) 237**] [**Name (NI) 5531**], h [**Telephone/Fax (1) 7010**], c [**Telephone/Fax (1) 7011**]
   .
   # Dispo: ICU for now
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ATRIAL FIBRILLATION (AFIB)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O URINARY TRACT INFECTION (UTI)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-12-1**] 05:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:  81 yo man with h/o AFIb, ESRD on HD,
   diastolic HF, prior CVAs, prior c diff inf, prior bouts of urosepsis
   and line infections with MRSA and [**Year (4 digits) 7012**] E. coli, admitted overnight
   with septic picture
weakness, HOTN, leukocytosis.  BP responded to
   IVF.  Has UTI by U/A.  CXR with low lung volumes but no obvious pna.
   CT abd without acute process on prelim. Covered with [**Last Name (un) 430**]/vanco
   (started Thursday).  Pan cx's pending.
   Exam notable for Tm 99.7  BP 95/57
 79/55  HR 87  RR   24 with sat 94%
   on 2L NC.
   WD m alert sitting comfortably in chair, nad, tunnel line w/o erythema
   or fluctu, b/l lower zone rales, RR, no m appreciated, benign abd,
   alert and oriented
   Labs notable for WBC 12.2 (14.8), HCT 36.6, na 132 (133), K+ 4.5, Cl 92
   (89) Cr 5.3
   U/A +, blood/urine cx pending
   CXR with low volumes, stable sm chronic eff, no focal process
   Active issues include:
     * sepsis presumably from UTI, possible line infection (cx
s pending)
     * HOTN
     * UTI
     * hyponatremia
     * ESRD
     * D HF
   HOTN responded to IVF overnight but again with MAPs < 60 this am.
   Remains AF with improving leukocytosis. Pt is asx, mentating well.
   Agree with plan to give additional fluid bolus to maintain MAPS > 60.
   Pts baseline BP (90's).  Monitor resp status closely as has b/l rales
   on exam and known d CHF though currently is comfortable and in no resp
   distress.  If unable to maintain blood pressure after more fluid, will
   start levo support. Check lactate. Continue current antibx coverage
   with vanco/[**Last Name (un) 430**] for ? line infection and UTI.  Cx data pending. Pending
   bl cx information, would consider check TTE, though is without stigmata
   of SBE.  Renal is following and will likely receive HD tomorrow.
   Hyponatremia (new)
seems most c/w low volume status.  Will follow [**Hospital1 **]
   labs and monitor.  Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 45 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2125-12-2**] 02:10 PM ------

2125-12-03 06:16:00 Physician Resident Progress Note
Chief Complaint: -continued to be hypotensive despite fluid boluses,
   CVL attempted but failed
   -a- line placed R radial art
   -renal: HD tomorrow and Tuesday
   -significantly agitated overnight- given zyprexa (didnt work), haldol
   IV and soft restraints
   - this AM AOX3, cooperative restraints removed with no issues
   24 Hour Events:
 ARTERIAL LINE - START [**2125-12-2**] 06:34 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2125-12-2**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-12-3**] 04:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-3**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 88 (81 - 90) bpm
   BP: 108/69(82) {75/43(53) - 112/82(91)} mmHg
   RR: 20 (17 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  4,788 mL
                                                                     63 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                  3,588 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                    348 mL
                                                                     90 mL
   Urine:
                                                                    348 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,440 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: 7.40/38/110/23/0
   PaO2 / FiO2: 275
   Physical Examination
   Gen: NAD, breathing easily on face tent
   HEENT: NCAT, EOMI, moist mm
   Chest: crackles at bases
   CV: Reg rate
   Abd: soft, NT, ND
   Ext: tace LE edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   128 K/uL
   10.8 g/dL
   109 mg/dL
   5.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   61 mg/dL
   95 mEq/L
   131 mEq/L
   33.1 %
   9.6 K/uL
        [image002.jpg]
                            [**2125-12-2**]  02:15 AM
                            [**2125-12-2**]  02:37 PM
                            [**2125-12-2**]  02:57 PM
                            [**2125-12-2**]  06:54 PM
                            [**2125-12-2**]  09:46 PM
                            [**2125-12-3**]  03:06 AM
                            [**2125-12-3**]  03:52 AM
   WBC
   12.2
   9.6
   Hct
   36.6
   33.1
   Plt
   131
   128
   Cr
   5.3
   5.5
   5.5
   TCO2
   26
   25
   23
   24
   Glucose
   91
   94
   109
   Other labs: PT / PTT / INR:16.1/29.4/1.4, Differential-Neuts:85.1 %,
   Lymph:7.5 %, Mono:6.0 %, Eos:0.9 %, Lactic Acid:0.9 mmol/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   This is a 81 M with pmh of ESRD on HD, AFib, CHF, C diff colitis, h/o
   klebsiella urosepsis, recent MRSA line infection presented with
   generalized weakness and low blood pressure.
   .
   # GNR bacteremia: His presentation is concerning for infection.  Urine
   is suspicous for UTI.  BCx from HD this week shows NGTD.  Afebrile.
   Blood pressure responded to NS in ED.  More prominent gall bladder on
   CT but benign abdominal exam.  HD line site not suspicous for
   infection.  Blood growing GNRs. Distended gallbladder on CT at
   admission.  Potentially the nidus
   - Vanc started on Thursday.  Will pancover him with Vanc (HD dosed) and
   meropenem
 until cx
s speciate with senstivities
   - follow up BCx - GNRs
   - RUQ u/s today
   - send UCx
 waiting
   - careful IVF for MAP greater than 60
   .
   # ESRD/HD:
   - appreciate renal recs
 will continue to follow, dialysis for Monday
   - Dr.[**Last Name (STitle) 7009**] notified re: plan for fistula next week
 may have to defer
   .
   # Hyponatremia/Hypochloremia
 likely from insensible losses, combined
   with poor PO, dialysis today
   - continue NS boluses prn for hypotension
   - check lytes s/p dialysis
   - will readdress prn
   .
   # Sleep apnea:
   - continue night oxygen, increase NC at night
   .
   # h/o CAD/PVD/CVA:
   - continue ASA 325
   .
   # h/o Afib:  Currently in afib but rate controlled.
   - beta-blocked - recently discontinued in the setting of hypotension
   .
   # h/o ? dCHF:
   - currently does not appear volume overloaded
   .
   # Anemia h/o GIB:
   - HCT greater than baseline, recent drop likely dilutional
   - guaiac stool prn
   .
   # Prophylaxis: sc heparin tid; PPI
   .
   # FEN: renal diet
   .
   # Access: PIV, HD line
   .
   # Code: Full Code, confirmed with patient
   .
   # Contact: Wife, [**Name (NI) 237**] [**Name (NI) 5531**], h [**Telephone/Fax (1) 7010**], c [**Telephone/Fax (1) 7011**]
   .
   # Dispo: ICU for now
 ELECTROLYTE & FLUID DISORDER, OTHER
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ATRIAL FIBRILLATION (AFIB)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O URINARY TRACT INFECTION (UTI)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-12-1**] 05:54 PM
   Arterial Line - [**2125-12-2**] 06:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-12-04 05:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2125-12-3**] 03:30 PM
   US of gallbladder
   HD last evening?
   Blood cult GNR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2125-12-3**] 10:09 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-12-3**] 08:24 PM
   Heparin Sodium (Prophylaxis) - [**2125-12-4**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-12-4**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 83 (80 - 90) bpm
   BP: 105/62(76) {73/56(67) - 111/76(86)} mmHg
   RR: 23 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                    300 mL
                                                                     56 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                    120 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                    420 mL
                                                                    160 mL
   Urine:
                                                                    420 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -120 mL
                                                                   -104 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: NAD, breathing easily on face tent
   HEENT: NCAT, EOMI, moist mm
   Chest: crackles at bases
   CV: Reg rate
   Abd: soft, NT, ND
   Ext: tace LE edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   127 K/uL
   10.7 g/dL
   94 mg/dL
   5.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   65 mg/dL
   96 mEq/L
   131 mEq/L
   33.2 %
   6.8 K/uL
        [image002.jpg]
                            [**2125-12-2**]  02:15 AM
                            [**2125-12-2**]  02:37 PM
                            [**2125-12-2**]  02:57 PM
                            [**2125-12-2**]  06:54 PM
                            [**2125-12-2**]  09:46 PM
                            [**2125-12-3**]  03:06 AM
                            [**2125-12-3**]  03:52 AM
                            [**2125-12-4**]  03:02 AM
   WBC
   12.2
   9.6
   6.8
   Hct
   36.6
   33.1
   33.2
   Plt
   131
   128
   127
   Cr
   5.3
   5.5
   5.5
   5.4
   TCO2
   26
   25
   23
   24
   Glucose
   91
   94
   109
   94
   Other labs: PT / PTT / INR:16.1/29.4/1.4, Differential-Neuts:85.1 %,
   Lymph:7.5 %, Mono:6.0 %, Eos:0.9 %, Lactic Acid:0.9 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.1 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   This is a 81 M with pmh of ESRD on HD, AFib, CHF, C diff colitis, h/o
   klebsiella urosepsis, recent MRSA line infection presented with
   generalized weakness and low blood pressure.
   .
   # GNR bacteremia: His presentation is concerning for infection.  Urine
   is suspicous for UTI.  BCx from HD this week shows NGTD.  Afebrile.
   Blood pressure responded to NS in ED.  More prominent gall bladder on
   CT but benign abdominal exam.  HD line site not suspicous for
   infection.  Blood growing GNRs. Distended gallbladder on CT at
   admission.  Potentially the nidus
   - Vanc started on Thursday.  Will pancover him with Vanc (HD dosed) and
   meropenem
 until cx
s speciate with senstivities
   - follow up BCx - GNRs
   - RUQ u/s today
   - send UCx
 waiting
   - careful IVF for MAP greater than 60
   .
   # ESRD/HD:
   - appreciate renal recs
 will continue to follow, dialysis for Monday
   - Dr.[**Last Name (STitle) 7009**] notified re: plan for fistula next week
 may have to defer
   .
   # Hyponatremia/Hypochloremia
 likely from insensible losses, combined
   with poor PO, dialysis today
   - continue NS boluses prn for hypotension
   - check lytes s/p dialysis
   - will readdress prn
   .
   # Sleep apnea:
   - continue night oxygen, increase NC at night
   .
   # h/o CAD/PVD/CVA:
   - continue ASA 325
   .
   # h/o Afib:  Currently in afib but rate controlled.
   - beta-blocked - recently discontinued in the setting of hypotension
   .
   # h/o ? dCHF:
   - currently does not appear volume overloaded
   .
   # Anemia h/o GIB:
   - HCT greater than baseline, recent drop likely dilutional
   - guaiac stool prn
   .
   # Prophylaxis: sc heparin tid; PPI
   .
   # FEN: renal diet
   .
   # Access: PIV, HD line
   .
   # Code: Full Code, confirmed with patient
   .
   # Contact: Wife, [**Name (NI) 237**] [**Name (NI) 5531**], h [**Telephone/Fax (1) 7010**], c [**Telephone/Fax (1) 7011**]
   .
   # Dispo: ICU for now
 ELECTROLYTE & FLUID DISORDER, OTHER
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ATRIAL FIBRILLATION (AFIB)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O URINARY TRACT INFECTION (UTI)
 .H/O RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-12-1**] 05:54 PM
   Arterial Line - [**2125-12-2**] 06:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Critical Care
   Present for key portions of history and exam. Agree with Dr. [**Last Name (STitle) 4025**]
   assessment and plan as detailed.  GNR growing from blood does not
   appear to be ESBL Klebsiella and urine no growth to date.  Will d/c
   Vanco. Issue remains source of infection with gall bladder and HD line
   major candidates.  Would be inclined to repeat RUQ U/S after course of
   abx.  GI seems best source for infection however options are limited
   percutaneous drain vs lap chole. Not clear what he will permit.
   Time spent 35 min